US04255332
Lithium clavulanate (5.15 g, estimated purity 95% pfa; 0.025 moles) was dissolved in water (45 mls) and cooled in an ice bath. Potassium fluoride solution (2.82 g KF.2H2O, 1.2 eq in 7 ml water) was added over 15 mins. Lithium fluoride started to separate out after less than 1 ml had been added. Isopropanol (32 mls) was added over 1/2 hr and the mixture made up to 600 ml with acetone over 8 hr. The mixture was stirred with celite (2 gm) and filtered to give a clear, colourless solution. This was added with rapid stirring to acetone (1400 mls) over 1 hr and the white solid filtered off, washing with acetone (3×500 ml) and dried on a fluid bed dryer to yield potassium clavulanate (4.8 g, 82.9% pfa, 81% recovery).

reactant | Lithium clavulanate | [Li+].C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-]
reactant | Potassium fluoride | 7 ml, 2.82 g, 1.2 eq | [F-].[K+]
reactant | Lithium fluoride | [F-].[Li+]
reactant | acetone | 1400 mls | CC(=O)C | C3H6O
solvent | water | 45 mls | O | H2O
product | potassium clavulanate | 4.8 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
